US04359420
70 mg (1.6 mmol) of sodium hydride (55 percent oil dispersion) are suspended in 5 ml of dry dimethylformamide and treated with 135 mg (0.5 mmol) of ethyl 5,6-dihydro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate. After completion of the gas evolution, 0.15 ml (2.3 mmol) of methyl iodide is added and the mixture is stirred at room temperature for 1 hour. The mixture is poured into ca 50 ml of water, neutralised with glacial acetic acid and extracted three times with ca 30 ml of chloroform each time. The combined chloroform phases are washed with ca 20 ml of water, dried over magnesium sulphate and evaporated. After column chromatography and recrystallisation from ethyl acetate, there is obtained ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate of melting point 166°-167° C.

reactant | sodium hydride | 1.6 mmol, 70 mg | [H-].[Na+]
reactant | ethyl 5,6-dihydro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 0.5 mmol, 135 mg | O=C1NCC=2N(C3=C1C=CC=C3)C=NC2C(=O)OCC | C14H13N3O3
reactant | methyl iodide | 2.3 mmol, 0.15 ml | CI | CH3I
reactant | water | ca 50 ml | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)OCC | C15H15N3O3
